US03975432
The process of claim 1 wherein di-(6-methoxy-2-naphthyl)zinc is reacted with ethyl-2-bromopropionate to afford ethyl-2-(6-methoxy-2-naphthyl)propionate.

reactant | di-(6-methoxy-2-naphthyl)zinc | COC=1C=C2C=CC(=CC2=CC1)[Zn]C1=CC2=CC=C(C=C2C=C1)OC
reactant | ethyl-2-bromopropionate | C(C)OC(C(C)Br)=O | C5H9BrO2
product | ethyl-2-(6-methoxy-2-naphthyl)propionate | C(C)OC(C(C)C1=CC2=CC=C(C=C2C=C1)OC)=O | C16H18O3
